US05721234
1-Acetamido-4-bromo-7-pyrrolidin-1yl-5,6,7,8-tetrahydronaphthalene
A solution of 1-acetamido-7-pyrrolidin-1-yl-5,6,7,8-tetrahydronaphthalene (0.36 g, 1.4 mmol) and sodium acetate trihydrate (0.38 g, 2.8 mmol) in acetic acid (15 mL) was treated with bromine (0.27 g, 1.7 mmol) and stirred at room temperature for 2 h. A precipitate was collected by filtration and the filtrate evaporated. The two solids were combined and dissolved in methylene chloride; water. The mixture was basified with 12.5% NaOH, and the organic phase separated. The aqueous layer was back extracted and the combined organic layers were dried over sodium sulfate, filtered and evaporated. The residue was heated in diethyl ether to form a solid, which was collected and dried (0.31 g).

reactant | 1-acetamido-7-pyrrolidin-1-yl-5,6,7,8-tetrahydronaphthalene | 1.4 mmol, 0.36 g | C(C)(=O)NC1=CC=CC=2CCC(CC12)N1CCCC1 | C16H22N2O
reactant | sodium acetate trihydrate | 2.8 mmol, 0.38 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | bromine | 1.7 mmol, 0.27 g | BrBr | Br2
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 1-Acetamido-4-bromo-7-pyrrolidin-1yl-5,6,7,8-tetrahydronaphthalene | C(C)(=O)NC1=CC=C(C=2CCC(CC12)N1CCCC1)Br | C16H21BrN2O
